US06395734B1
3-[2,4-Dimethyl-5-(6-morpholin-4-yl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrol-3-yl]-propionic acid
3-(2-Carboxyethyl)-2,4-dimethyl-5-formylpyrrole (3.3 g), 4 g 6-(morpholin-4-yl)-2-oxindole and 1.8 mL piperidine in 60 mL of ethanol were heated at 90° C. for 7 hours. The reaction mixture was cooled and concentrated. The residue was suspended in 6 N aqueous hydrochloric acid. The precipitate was filtered, washed with water to pH 6 and dried in a vacuum oven overnight. The resulting solid was purified by chromatography on a silica gel column eluting with ethyl acetate-hexane-acetic acid to give 2.78 g (38% yield) of the title compound as a brown solid.

reactant | 3-(2-Carboxyethyl)-2,4-dimethyl-5-formylpyrrole | 3.3 g | C(=O)(O)CCC1=C(NC(=C1C)C=O)C | C10H13NO3
reactant | 6-(morpholin-4-yl)-2-oxindole | 4 g | N1(CCOCC1)C1=CC=C2CC(NC2=C1)=O | C12H14N2O2
reactant | piperidine | 1.8 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 3-[2,4-Dimethyl-5-(6-morpholin-4-yl-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrol-3-yl]-propionic acid | 2.78 g, 38% yield | CC=1NC(=C(C1CCC(=O)O)C)C=C1C(NC2=CC(=CC=C12)N1CCOCC1)=O | C22H25N3O4
